US04159331
In the matter given in Example 1C, 4-chloro-7-(trifluoromethyl)quinoline is heated with 1-[(p-aminophenyl)sulfonyl]-4-(m-chlorophenyl)piperazine to give 1-(m-chlorophenyl)-4-[[4-[[7-(trifluoromethyl)4-quinolinyl]amino]phenyl]sulfonyl]piperazine.

reactant | 4-chloro-7-(trifluoromethyl)quinoline | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 1-[(p-aminophenyl)sulfonyl]-4-(m-chlorophenyl)piperazine | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C16H18ClN3O2S
product | 1-(m-chlorophenyl)-4-[[4-[[7-(trifluoromethyl)4-quinolinyl]amino]phenyl]sulfonyl]piperazine | ClC=1C=C(C=CC1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C26H22ClF3N4O2S
